US04711903
3-[[2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]ethyl]thio]propanoic acid
The title compound was prepared according to the method of Example 5 from 3-mercaptopropionic acid (6.1 g, 0.057 mole); sodium (3.9 g, 0.17 mole); 1-bromo-2-chloroethane (12.4 g, 0.086 mole); and 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (13.7 g, 0.057 mole), purified by chromatography on silica and recrystallized from ethyl acetate/hexane, m.p. ca. 57.5° C.

reactant | 3-mercaptopropionic acid | 0.057 mole, 6.1 g | SCCC(=O)O | C3H6O2S
reactant | sodium | 0.17 mole, 3.9 g | [Na] | Na
reactant | 1-bromo-2-chloroethane | 0.086 mole, 12.4 g | BrCCCl | C2H4BrCl
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.057 mole, 13.7 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
product | 3-[[2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]ethyl]thio]propanoic acid | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCSCCC(=O)O | C19H30O3S2
